US05284838
trans-6-Cyano-4-(I,6-dihydro-3-methyl-6-oxopyridazin-1-yl)-2,2-dimethylchroman-3-ol: SR 45 225
A mixture is prepared which contains 1 g of 6-cyano-2,2-dimethyl-3,4-epoxychromane and 1.1 g of 6-methylpyridazin-3-one (prepared by the method described in J. Chem. Soc., 1947, p. 241, by reacting ethyl levulinate with hydrazine hydrate) in 10 ml of dioxane containing 0.1 ml of a 35% methanolic solution of benzyltrimethylammonium hydroxide. After 2 days at room temperature, the mixture is diluted with water and filtered, the material on the filter is dissolved in ethyl acetate, the water is then decanted and the organic phase is dried and concentrated. After recrystallization from an ethyl acetate/isopropyl ether mixture, 0.6 g of the expected product is obtained.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychromane | 1 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | 6-methylpyridazin-3-one | 1.1 g | CC=1C=CC(NN1)=O | C5H6N2O
reactant | ethyl levulinate | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | hydrazine hydrate | O.NN
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | trans-6-Cyano-4-(I,6-dihydro-3-methyl-6-oxopyridazin-1-yl)-2,2-dimethylchroman-3-ol | 0.6 g | C(#N)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1N=C(C=CC1=O)C | C17H17N3O3
